US05925661
A) 2-Phthalimidoethanesulphonic acid potassium salt
A mixture containing 30 g of taurine, 25 g of potassium acetate and 90 ml of acetic acid is brought to reflux for 10 minutes and 37.8 g of phthalic anhydride are then added. The mixture is heated to reflux for two and a half hours and then filtered, and the product is washed with AcOH and then with 2-propanol; it is rinsed with ether and then dried under vacuum to obtain 59.14 g of the expected product.

reactant | taurine | 30 g | NCCS(=O)(=O)O | C2H7NO3S
reactant | potassium acetate | 25 g | C(C)(=O)[O-].[K+]
reactant | phthalic anhydride | 37.8 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | 2-Phthalimidoethanesulphonic acid potassium salt | 59.14 g | [K+].C1(C=2C(C(N1CCS(=O)(=O)[O-])=O)=CC=CC2)=O | InChI=1S/C10H9NO5S.K/c12-9-7-3-1-2-4-8(7)10(13)11(9)5-6-17(14,15)16;/h1-4H,5-6H2,(H,14,15,16);/q;+1/p-1
